* Testbench for Magic extracted inverter

.lib /home/praka/whyRD_eda_bundle/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.include Inverter.spice

* Power supply
VDD VDD 0 1.8
VSS VSS 0 0

* Input stimulus (pulse) for transient analysis
VIN Vin 0 PULSE(0 1.8 0 1n 1n 10n 20n)

* Input DC analysis
VIN Vin 0 DC 0

XINV Vout Vin VSS VDD Inverter

* Run transient analysis
.tran 0.1n 100n

* Run DC analysis
.dc Vin 0 1.8 0.001

.control
run
plot v(Vin) v(Vout)
.endc

.end
